US06288261B1
1-bromo-2-(2-methoxyethenyl)naphthalene
A solution of (methoxymethyl)triphenyl phosphonium chloride (32.0 g, 93.3 mmol) in THF (100 mL) at −78° C. was treated with potasium tert-butoxide (9.90 g, 88.1 mmol), stirred cold for 1 hour, treated with a solution of 1-bromo-2-naphthaldehyde (12.1 g, 51.7 mmol) (commercially available from TCI America) in THF (75 mL) over 15 minutes, stirred for 16 hours at room temperature, treated with aqueous ammonium chloride (200 mL) and extracted with ethyl acetate. The ethyl acetate was washed with brine, dried (MgSO4), filtered, and concentrated to an oil. The oil was purified on silica gel with a gradient of 2% to 5% ethyl acetate/hexanes to provide 11.8 g (87%) of the desired compound.

reactant | (methoxymethyl)triphenyl phosphonium chloride | 93.3 mmol, 32.0 g | [Cl-].COC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | potasium tert-butoxide | 88.1 mmol, 9.90 g | CC(C)([O-])C.[K+]
reactant | 1-bromo-2-naphthaldehyde | 51.7 mmol, 12.1 g | BrC1=C(C=CC2=CC=CC=C12)C=O | C11H7BrO
reactant | ammonium chloride | 200 mL | [Cl-].[NH4+]
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | THF | 75 mL | C1CCOC1 | C4H8O
product | 1-bromo-2-(2-methoxyethenyl)naphthalene | 11.8 g, 87% | BrC1=C(C=CC2=CC=CC=C12)C=COC | C13H11BrO
